US07935815B2
Synthesis of (+) and (−)-2-{(E)-2-[6-fluoro-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine
6-Bromo-2-fluoro-3-(4-methyl-1H-imidazol-1-yl)pyridine (156 mg) and 8-(2-trifluoromethylphenyl)-2-vinyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine (179 mg) were dissolved in toluene (5 ml). Tris(dibenzylideneacetone)dipalladium (167 mg), tri-o-tolylphosphine (111 mg) and triethylamine (340 ul) were added and the reaction solution was heated and stirred in a nitrogen atmosphere at 120° C. for 1.3 hours. After leaving to cool, ethyl acetate and water were added. The reaction solution was filtered through celite and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography to obtain a racemate of the title compound (65 mg). The resulting racemate was separated by CHIRALPAK™ IB manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm; mobile phase: hexane:ethanol=6:4) to obtain the title optically active compound with positive optical rotation (20 mg, >99% ee) and the title optically active compound with negative optical rotation (20 mg, >99% ee).

reactant | 6-Bromo-2-fluoro-3-(4-methyl-1H-imidazol-1-yl)pyridine | 156 mg | BrC1=CC=C(C(=N1)F)N1C=NC(=C1)C | C9H7BrFN3
reactant | 8-(2-trifluoromethylphenyl)-2-vinyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 179 mg | FC(C1=C(C=CC=C1)C1C=2N(CCC1)N=C(N2)C=C)(F)F | C15H14F3N3
reactant | tri-o-tolylphosphine | 111 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 340 ul | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tris(dibenzylideneacetone)dipalladium | 167 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (−)-2-{(E)-2-[6-fluoro-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 65 mg | FC1=C(C=CC(=N1)/C=C/C1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C24H20F4N6
